US04882338
To a solution of 246.0 mg of 2-[(6,7-dimethoxyisoquinolin-1-yl)methylthio]benzimidazole (Ia-1) (0.700 mmol) in 10 ml of CHCl3 was added 151.0 mg of 80% 3-CPBA (0.700 mmol) at -10°--15° C., and the mixture was stirred for 30 min. at the same temperature. The reaction mixture was mixed with 3 ml of saturated aqueous solution of NaHCO3 and 0.3 ml of 10% aqueous solution of NaHSO3. The reaction temperature was returned to room temperature, and the reaction mixture was mixed with 2 ml of water and extracted with CHCl3. The CHCl3 layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was subjected to silica gel chromatography, eluting with AcOEt-MeOH. The obtained crystals were washed with CH2Cl2 -benzene to give 216.2 mg of the objective compound 2-[(6,7-dimethoxyisoquinolin-1-yl)methylsulfinyl]benzimidazole (Ic-1) (Yield: 83.7%).

reactant | 2-[(6,7-dimethoxyisoquinolin-1-yl)methylthio]benzimidazole | 0.700 mmol, 246.0 mg | COC=1C=C2C=CN=C(C2=CC1OC)CSC=1NC2=C(N1)C=CC=C2 | C19H17N3O2S
reactant | 3-CPBA | 0.700 mmol, 151.0 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaHSO3 | OS(=O)[O-].[Na+]
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 2 ml | O | H2O
product | 2-[(6,7-dimethoxyisoquinolin-1-yl)methylsulfinyl]benzimidazole | Yield: 83.7% | COC=1C=C2C=CN=C(C2=CC1OC)CS(=O)C=1NC2=C(N1)C=CC=C2 | C19H17N3O3S
